US07723345B2
6.51. Synthesis of (S)-2-Amino-3-(4-(4-(4-phenoxyphenyl)-1H-1,2,3-triazol-1-yl)phenyl)propanoic acid
A mixture of 1-ethynyl-4-phenoxy-benzene (126 mg, 0.65 mmol) and (S)-3-(4-azido-phenyl)-2-tert-butoxycarbonylamino-propionic acid (200 mg, 0.65 mg) in H2O:dioxane (5:1) was heated at 100° C. in a sealed tube for overnight. After completion of reaction, 3N HCl (5 ml) was added and the mixture was stirred for 2 hr at 50° C. Removal of solvent gave crude product which was dissolved in MeOH and purified by preparative HPLC to give 45 mg of desired product (yield: 29%). 1H-NMR (400 MHz, CD3OD): δ (ppm) 3.2 (m, 1H), 3.4 (m, 1H), 4.3 (m, 1H), 6.9 (d, 2H), 7.0 (d, 2H), 7.2 (m, 1H), 7.3 (d, 2H), 7.4-7.55 (m, 6H), 8.0 (s, 1H).

reactant | 1-ethynyl-4-phenoxy-benzene | 0.65 mmol, 126 mg | C(#C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C14H10O
reactant | (S)-3-(4-azido-phenyl)-2-tert-butoxycarbonylamino-propionic acid | 200 mg | N(=[N+]=[N-])C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C14H18N4O4
reactant | HCl | 3N, 5 ml | Cl | ClH
solvent | H2O dioxane | O.O1CCOCC1
solvent | MeOH | CO | CH4O
product | (S)-2-Amino-3-(4-(4-(4-phenoxyphenyl)-1H-1,2,3-triazol-1-yl)phenyl)propanoic acid | 45 mg, yield: 29% | N[C@H](C(=O)O)CC1=CC=C(C=C1)N1N=NC(=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C23H20N4O3
